US05814629
Preparation of tetrahydro-5-oxo-3-thiophenecarboxylic acid methyl ester (intermediate)
225 g (1.09 mol) of dicyclohexylcarbodiimide (DCC) are added in portions, while cooling with ice, to a solution of 160 g (1.095 mol) of tetrahydro-5-oxo-3-thiophenecarboxylic acid, 70 g (2.19 mol) of methanol and 4 g (32.8 mmol) of dimethylaminopyridine (DMAP) in 2.5 litres of diethyl ether. After 4 hours' stirring at room temperature, the dicyclohexylurea is filtered off and the filtrate is extracted with 500 ml of 2N hydrochloric acid and 500 ml of saturated sodium hydrogen carbonate solution, is washed with water and is dried over sodium sulfate. There are obtained 149 g of solid product having a melting point of 33°-35° C.

reactant | dicyclohexylcarbodiimide | 1.09 mol, 225 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrahydro-5-oxo-3-thiophenecarboxylic acid | 1.095 mol, 160 g | O=C1CC(CS1)C(=O)O | C5H6O3S
reactant | methanol | 2.19 mol, 70 g | CO | CH4O
solvent | diethyl ether | 2.5 litres | C(C)OCC | C4H10O
catalyst | dimethylaminopyridine | 32.8 mmol, 4 g | CN(C)C1=NC=CC=C1 | C7H10N2
product | tetrahydro-5-oxo-3-thiophenecarboxylic acid methyl ester | 149 g | COC(=O)C1CSC(C1)=O | C6H8O3S
